US08629137B2
7-methoxy-3-{1-[6-(3-methyl-2-oxo-4-pyrazol-1-ylmethyl-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one
140 mg (0.508 mmol) 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one, 210 mg (0.284 mmol) 6-(6-chloro-pyrimidine-4-carbonyl)-3-methyl-4-pyrazol-1-ylmethyl-3H-benzoxazol-2-one and 0.100 mL (0.581 mmol) DIPEA were combined in 1.0 mL DMF and stirred for 48 h at RT. Then the reaction mixture was purified several times by preparative HPLC-MS. The fractions containing the product were combined and freeze-dried.

reactant | 7-methoxy-3-piperidin-4-yl-1,3,4,5-tetrahydro-1,3-benzodiazepin-2-one | 0.508 mmol, 140 mg | COC=1C=CC2=C(CCN(C(N2)=O)C2CCNCC2)C1 | C15H21N3O2
reactant | 6-(6-chloro-pyrimidine-4-carbonyl)-3-methyl-4-pyrazol-1-ylmethyl-3H-benzoxazol-2-one | 0.284 mmol, 210 mg | ClC1=CC(=NC=N1)C(=O)C1=CC2=C(N(C(O2)=O)C)C(=C1)CN1N=CC=C1 | C17H12ClN5O3
reactant | DIPEA | 0.581 mmol, 0.100 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1.0 mL | CN(C)C=O | C3H7NO
product | 7-methoxy-3-{1-[6-(3-methyl-2-oxo-4-pyrazol-1-ylmethyl-2,3-dihydro-benzoxazole-6-carbonyl)-pyrimidin-4-yl]-piperidin-4-yl}-1,3,4,5-tetrahydro-benzo[d][1,3]diazepin-2-one | COC1=CC2=C(NC(N(CC2)C2CCN(CC2)C2=NC=NC(=C2)C(=O)C2=CC3=C(N(C(O3)=O)C)C(=C2)CN2N=CC=C2)=O)C=C1 | C32H32N8O5
